US08957074B2
Following general N—C coupling procedure 1, 2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester (0.510 g, 1.887 mmol) (Reference: German Patent DE10 2005 030051A1 (Dec. 28, 2006)) was combined with 5-bromo-2-nitropyridine (0.400 g, 1.971 mmol, 1.05 eq) which gave 3-(6-Nitro-pyridin-3-yl)-2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester as a brown solid (0.684 g, 1.743 mmol) in 92% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.45 (br. s., 9H) 1.54-1.72 (m, 1H) 1.86-2.16 (m, 3H) 3.30 (d, J=8.03 Hz, 1H) 3.66 (br. s., 2H) 3.81 (d, J=9.03 Hz, 1H) 3.94 (d, J=7.53 Hz, 1H) 8.33 (d, J=9.03 Hz, 1H) 8.52 (br. s., 1H) 8.60 (dd, J=9.03, 3.01 Hz, 1H). MS m/z 337.1 (M+H)+

reactant | 2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester | 1.887 mmol, 0.510 g | C(C)(C)(C)OC(=O)N1CCC2(CNC(O2)=O)CCC1 | C13H22N2O4
reactant | 5-bromo-2-nitropyridine | 1.971 mmol, 0.400 g, 1.05 eq | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
product | 3-(6-Nitro-pyridin-3-yl)-2-oxo-1-oxa-3,8-diaza-spiro[4.6]undecane-8-carboxylic acid tert-butyl ester | 1.743 mmol, 0.684 g, 92% yield | C(C)(C)(C)OC(=O)N1CCC2(CN(C(O2)=O)C=2C=NC(=CC2)[N+](=O)[O-])CCC1 | C18H24N4O6
